US05037990
b) [3-(2-Benzylaminoethyl)-phenoxy]-malonic acid
To a solution of 8.0 g. (35.2 mMol) 3-(2-benzylaminoethyl)-phenol and 100 ml. ethanol there are added 35.2 mMol sodium methylate in the form of a methanolic solution and thereafter 6.8 g. (35.2 mMol) diethyl chloromalonate. After stirring for 4 hours, the reaction mixture is evaporated. 50 ml. Diethyl ether are added to the residue, as well as ice-cold 1N aqueous sodium hydroxide solution, shaken up and the ethereal phase is separated off. After drying over anhydrous sodium sulphate, the sulphate is precipitated from it by the dropwise addition of concentrated sulphuric acid, which is filtered off with suction and washed with diethyl ether. The product is very hygroscopic and is obtained in the form of a somewhat greasy mass. Yield 11.7 g. (74% of theory).

reactant | 3-(2-benzylaminoethyl)-phenol | 35.2 mMol | C(C1=CC=CC=C1)NCCC=1C=C(C=CC1)O | C15H17NO
reactant | sodium methylate | 35.2 mMol | C[O-].[Na+]
reactant | diethyl chloromalonate | 35.2 mMol | ClC(C(=O)OCC)C(=O)OCC | C7H11ClO4
solvent | ethanol | C(C)O | C2H6O
product | [3-(2-Benzylaminoethyl)-phenoxy]-malonic acid | C(C1=CC=CC=C1)NCCC=1C=C(OC(C(=O)O)C(=O)O)C=CC1 | C18H19NO5
